US20010049385A1
Sodium borohydride (119 mg, 3.15 mmol) was added to a solution of 2-(2,4-dichlorophenoxy)benzaldehyde (600 mg, 2.25 mmol) in isopropanol (10 ml) and DCM (20 ml). The reaction mixture was stirred for 2 hours at room temperature. A 10% aqueous solution of sodium hydrogensulphate (200 ml) was added dropwise. Ethyl acetate (300 ml) was added successively. The phases were separated. The aqueous phase was extracted with ethyl acetate (100 ml). The combined organic layers were washed with a saturated aqueous solution of sodium hydrogencarbonate (200 ml) and dried over magnesium sulphate. The solvent was removed in vacuo. The crude product was purified by flash chromatography on silica (100 g), using ethyl acetate/heptane 1:3 as eluent, to give 440 mg of 1-[2-(2,4-dichlorophenoxy)phenyl]methanol.

reactant | Sodium borohydride | 3.15 mmol, 119 mg | [BH4-].[Na+]
reactant | 2-(2,4-dichlorophenoxy)benzaldehyde | 2.25 mmol, 600 mg | ClC1=C(OC2=C(C=O)C=CC=C2)C=CC(=C1)Cl | C13H8Cl2O2
reactant | sodium hydrogensulphate | 200 ml | S(=O)(=O)(O)[O-].[Na+]
reactant | Ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
solvent | isopropanol | 10 ml | C(C)(C)O | C3H8O
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
product | 1-[2-(2,4-dichlorophenoxy)phenyl]methanol | 440 mg | ClC1=C(OC2=C(C=CC=C2)CO)C=CC(=C1)Cl | C13H10Cl2O2
